US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((1-cyclopropyl-5-phenyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:, using instead tert-butyl 4-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (92.0 mg, 0.24 mmol) as a starting material to afford 40.0 mg (45.6%) of tert-butyl 7-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-4-methyl-3,4 dihydroquinoxaline-1(2H)-carboxylate. LCMS-ESI+ (m/z): [M+H]+ calcd for C30H37N5O4:531.28; found 532.23.

reactant | (R)-4-((R)-1-((1-cyclopropyl-5-phenyl-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC=CC=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C22H23N3O2
reactant | tert-butyl 4-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.24 mmol, 92.0 mg | CN1CCN(C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C20H31BN2O4
product | tert-butyl 7-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-4-methyl-3,4 dihydroquinoxaline-1(2H)-carboxylate | 40.0 mg, 45.6% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC=C1N(CCN(C1=C2)C(=O)OC(C)(C)C)C)O[C@H](C)[C@H]2CNC(C2)=O | C30H37N5O4
